US09085576B2
Synthesis of methyl 6-((3-((1S,5R,6S)-3-amino-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-5-yl)-4,5-difluorophenyl)carbamoyl)nicotinate
Methyl 6-((3-((1R,5S,6R)-3-amino-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-5-yl)-4,5-difluorophenyl)carbamoyl)nicotinimidate (0.050 g, 0.111 mmol) was dissolved in hydrochloric acid (2N, 5 mL, 10.00 mmol) and stirred at room temperature. After 15 minutes, the reaction mixture was neutralized with 1 N sodium hydroxide (10 mL). A solution of aqueous saturated sodium bicarbonate (5 mL) was added and the mixture stirred for 10 minutes. The suspension was filtered and the solid was washed with water (10 mL). The solid was further purified by silica gel chromatography [10-90% (2% NH4OH in 3:1 ethyl acetate: ethanol) in hexane] to give the title compound (0.0298 g, 0.066 mmol, 59.5% yield). MS m/z=452.9 [M+H]+. 1H NMR (CHLOROFORM-d) Shift: 9.75 (s, 1H), 9.04 (dd, J=2.0, 0.7 Hz, 1H), 8.48 (dd, J=8.0, 2.0 Hz, 1H), 8.26 (dd, J=8.1, 0.7 Hz, 1H), 7.99 (ddd, J=11.7, 7.0, 2.8 Hz, 1H), 7.22-7.28 (m, 1H), 6.23 (td, J=55.8, 0.9 Hz, 1H), 5.17 (br. s., 2H), 4.01 (s, 3H), 3.92 (td, J=6.8, 2.6 Hz, 1H), 1.80-1.92 (m, 1H), 1.40-1.49 (m, 1H), 0.90-1.03 (m, 1H)

reactant | Methyl 6-((3-((1R,5S,6R)-3-amino-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-5-yl)-4,5-difluorophenyl)carbamoyl)nicotinimidate | 0.111 mmol, 0.050 g | NC=1O[C@@H]2C[C@@H]2[C@@](N1)(C(F)F)C=1C=C(C=C(C1F)F)NC(=O)C1=NC=C(C(OC)=N)C=C1 | C20H17F4N5O3
reactant | hydrochloric acid | 10.00 mmol, 2N, 5 mL | Cl | ClH
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
solvent | sodium hydroxide | 1 N, 10 mL | [OH-].[Na+]
product | methyl 6-((3-((1S,5R,6S)-3-amino-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-5-yl)-4,5-difluorophenyl)carbamoyl)nicotinate | 0.066 mmol, 0.0298 g, 59.5% yield | NC=1O[C@H]2C[C@H]2[C@](N1)(C(F)F)C=1C=C(C=C(C1F)F)NC(=O)C1=NC=C(C(=O)OC)C=C1 | C20H16F4N4O4
